2150-09-06 07:39:00 Physician Resident Progress Note
Chief Complaint: Serotonin Syndrome
   24 Hour Events:
   - Head CT was negative for ICH
   - PTTs were persistently supratherapeutic.  Gtt was decreased from 750
   to 150 this morning
   - UOP remained poor, so 500 cc NS boluses were given to maintain CVP
   8-12.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-6**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 109 (101 - 121) bpm
   BP: 105/52(66) {91/45(58) - 141/78(91)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 57 Inch
    CVP: 7 (7 - 14)mmHg
   Total In:
                                                                    667 mL
                                                                  1,456 mL
   PO:
   TF:
   IVF:
                                                                    667 mL
                                                                  1,456 mL
   Blood products:
   Total out:
                                                                     87 mL
                                                                    107 mL
   Urine:
                                                                     87 mL
                                                                    107 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    580 mL
                                                                  1,349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 10 cmH2O
   Plateau: 13 cmH2O
   SpO2: 96%
   ABG: 7.36/40/44/18/-2
   Ve: 7.6 L/min
   PaO2 / FiO2: 88
   Physical Examination
   Vitals: T: 96.5, BP:114/60, P:119, R:18 O2: 95% on CMV. VT 400, r 16,
   FiO2 50%
   General: Intubated and sedated.  Not responsive to verbal or painful
   stimuli.
   HEENT: PERRL, Right pupil > left pupil (3 cm v 2 cm).  Sclera
   anicteric, MMM, blood around ET tube site
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   65 K/uL
   11.1 g/dL
   116 mg/dL
   0.4 mg/dL
   18 mEq/L
   5.0 mEq/L
   21 mg/dL
   114 mEq/L
   137 mEq/L
   33.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2150-9-5**]  05:57 PM
                             [**2150-9-5**]  07:53 PM
                             [**2150-9-5**]  08:29 PM
                             [**2150-9-6**]  03:53 AM
   WBC
   10.2
   14.2
   Hct
   35.2
   33.7
   Plt
   66
   65
   Cr
   0.4
   0.4
   TropT
   1.11
   0.67
   TCO2
   23
   24
   Glucose
   124
   116
   Other labs: PT / PTT / INR:18.0/150.0/1.6, CK / CKMB /
   Troponin-T:2162/66/0.67, ALT / AST:104/321, Alk Phos / T Bili:36/1.9,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:726 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.6 mg/dL, PO4:1.6 mg/dL
   Imaging: CT head: No hemorrhage. No acute intracranial pathology.
   Assessment and Plan
   The patient is a 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
   .
   #. Serotonin Syndrome:  The patient presented with hyperthermia,
   posturing, and rigidity in the setting of MAOI and SSRI use.  This was
   thought to be [**2-9**] serotonin syndrome, so the patient was started on
   Bromocriptine, Dantrolene, and Cryoheptadine.  She is no longer
   hyperthermic nor rigid.
    - Continue to hold MAOI and SSRI
    - Restart Vecuronium if rigidity increases
    - Hold sedation for now, in order to assess mental status
    - Continue to maintain O2 sat > 93%
    - Continue Levophed as necessary to maintain MAP > 60
    - Use cooling blankets as needed for hyperthermia.  Avoid NSAIDs
    - Use Cyproheptadine 2 mg q2h if symptoms recur
    - Aim to keep CVP 8-12
    - F/U Head CT final read
    - F/U LP results at OSH
   .
   #. ACS: The patient was found to have ST changes on ECG and an increase
   in TroponinI from 0.14 to 8.7.  The patient was intubated and thus
   unable to verbalize potential chest pain.  Heparin gtt was started at
   OSH, and cardiology was C/S upon arrival.
    - Continue heparin gtt
    - Defer on ASA, as the patient has unknown allergy
    - Continue to hold BB given BP lability
    - F/U cardiology recs--much appreciated!
    - Continue to cycle enzymes at 0100 and 0900
    - Repeat EKG in am
    - Repeat TTE in am
   .
   #. UTI:  The patient was found to have a positive U/A at OSH but
   cultures were c/w contamination.  She was being treated with Ceftaz and
   Gentamicin at OSH.
    - Repeat U/A
    - Hold ABx for now, as fever most likely [**2-9**] serotonin syndrome as no
   signs of active infection
   .
   # Thrombocytopenia:  The patient has thrombocytopenia, likely [**2-9**]
   underlying liver disease.  Her platelets are currently at her baseline.
    - Continue to monitor platelets daily
    - Transfuse for platelets < 50 with signs of active bleeding
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-9-5**] 06:00 PM
   20 Gauge - [**2150-9-5**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2150-09-06 09:09:00 Physician Attending Progress Note
Chief Complaint: Seratonin Syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 y/o f with h/o HCV, recent diagnosis of Parkinson's disease who had
   recently started an MAOI and was asked to stop prozac which she was
   taking for depression, but was apparently taking the two together for 6
   days. She then developed fatigue, weakness, and a fall at home. In the
   OSH was found to have rigidityy and myoclonus, then developed a fever
   to 108F. She was intubated sedated and paralyzed for concern for
   seratonin syndrome. She was also given cyprohepatadine/dantrolene/and
   bromocryptine. She was also noted to have ST elevations on the monitor
   so an ECG was checked which showed new 1 mm STE in V4-V6, CK was in the
   4,000s and trop I went from 0.18 to 8.0 during her hospitalization. She
   was transferred here for further care and possible cath.
   24 Hour Events:
 MULTI LUMEN - START [**2150-9-5**] 06:00 PM
 INVASIVE VENTILATION - START [**2150-9-5**] 06:06 PM
   On arrival here temp was 96.5 114/60 HR 119 sat 95%. ECG showed STE had
   resolved, and she had TW flattening in V4-V6. Cards fellow came to see
   her and rec holding off on cath given resolution of STE. Not given ASA
   given question of allergy per family.
   R pupil was 3 mm L was 2 mm and reactive on arrival yesterday.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Heparin gtt (held for PTT >150)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: Foley
   Flowsheet Data as of  [**2150-9-6**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 109 (101 - 121) bpm
   BP: 105/52(66) {91/45(58) - 141/78(91)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 57 Inch
   CVP: 7 (7 - 14)mmHg
   Total In:
                                                                    667 mL
                                                                  1,487 mL
   PO:
   TF:
   IVF:
                                                                    667 mL
                                                                  1,487 mL
   Blood products:
   Total out:
                                                                     87 mL
                                                                    107 mL
   Urine:
                                                                     87 mL
                                                                    107 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    580 mL
                                                                  1,380 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 245 (245 - 245) mL
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   SpO2: 95%
   ABG: 7.36/40/44/18/-2
   Ve: 7.6 L/min
   PaO2 / FiO2: 88
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: L 3 mm, R 2mm reactive
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), [**2-13**]
   systolic
   Lungs: Clear
   Abd: soft, NT
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Tone increased in UE but releases ?clasp-knife
   Labs / Radiology
   11.1 g/dL
   65 K/uL
   116 mg/dL
   0.4 mg/dL
   18 mEq/L
   5.0 mEq/L
   21 mg/dL
   114 mEq/L
   137 mEq/L
   33.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2150-9-5**]  05:57 PM
                             [**2150-9-5**]  07:53 PM
                             [**2150-9-5**]  08:29 PM
                             [**2150-9-6**]  03:53 AM
   WBC
   10.2
   14.2
   Hct
   35.2
   33.7
   Plt
   66
   65
   Cr
   0.4
   0.4
   TropT
   1.11
   0.67
   TCO2
   23
   24
   Glucose
   124
   116
   Other labs: PT / PTT / INR:18.0/150.0/1.6, CK / CKMB /
   Troponin-T:2162/66/0.67, ALT / AST:104/321, Alk Phos / T Bili:36/1.9,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:726 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   1. seratonin syndrome: Currently afebrile
   -if febrile can use cyproheptadine/benzos/paralytics
   -f/u LP results
   -neuro consult
   -versed holiday
   MS: is still poor and is still relatively rigid.  Unclear if part of
   this is sedation is slow to wear off in setting of liver disease given
   low platelets and h/o cirrhosis.  , but neuro consult to see.
   2. ACS: STE resolved, now tachycardic
   -no ASA due to allergy
   -hold statin with rhabdo
   -cards following
   -hold heparin until PTT <150
   3. Thrombocytopenia: Long standing
   -tx plts if evidence of bleeding
   Coagulapathy: increased INR possibly due to liver diseae
   4. FEN: start TF if no cath
   5. ppx: PPI
   6. IJ
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2150-9-5**] 06:00 PM
   20 Gauge - [**2150-9-5**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-09-07 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   The patient is a 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
   [**9-6**]:
   - stopped versed in a.m. but continued to be rigid and unresponsive on
   vent
   - family came by to visit her
   - neuro c/s:  trend CK [**Hospital1 **], restart Cyproheptadine, can start
   vecuronium and midazolam if spikes, check mri, will do eeg. attending
   placed nejm review article on serotonin syndrome in chart, lists
   medications to avoid (including linezolide)
   - cards ([**Doctor First Name **] han on call) discussion on phone:  not STEMI (after
   reviewing EKGs), has demnad ischemia, stop heparin, no need for
   plavix/aspirin.
   - started vanc/zosyn overnight b/c white count climbing, hadn't weaned
   off pressors, concern for possible sepsis (?urosepsis given dirty UA on
   arrival at OSH.)
   - bolused aggressively for low UOP
   24 Hour Events:
 BLOOD CULTURED - At [**2150-9-6**] 08:00 AM
 SPUTUM CULTURE - At [**2150-9-6**] 08:00 AM
 URINE CULTURE - At [**2150-9-6**] 08:00 AM
 MAGNETIC RESONANCE IMAGING - At [**2150-9-7**] 12:00 AM
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2150-9-7**] 04:00 AM
   Vancomycin - [**2150-9-7**] 05:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-9-6**] 10:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-7**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 86 (82 - 113) bpm
   BP: 96/53(61) {85/45(54) - 133/71(83)} mmHg
   RR: 24 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 3 (3 - 246)mmHg
   Total In:
                                                                  6,156 mL
                                                                  1,571 mL
   PO:
   TF:
   IVF:
                                                                  6,156 mL
                                                                  1,391 mL
   Blood products:
   Total out:
                                                                    482 mL
                                                                    157 mL
   Urine:
                                                                    482 mL
                                                                    157 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,674 mL
                                                                  1,414 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 545 (245 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 5.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   8.6 g/dL
   134 mg/dL
   0.3 mg/dL
   20 mEq/L
   3.8 mEq/L
   22 mg/dL
   115 mEq/L
   139 mEq/L
   26.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2150-9-5**]  05:57 PM
                             [**2150-9-5**]  07:53 PM
                             [**2150-9-5**]  08:29 PM
                             [**2150-9-6**]  03:53 AM
                             [**2150-9-6**]  10:38 AM
                             [**2150-9-7**]  04:22 AM
   WBC
   10.2
   14.2
   7.5
   Hct
   35.2
   33.7
   26.1
   Plt
   66
   65
   65
   Cr
   0.4
   0.4
   0.3
   TropT
   1.11
   0.67
   0.63
   0.59
   TCO2
   23
   24
   Glucose
   124
   116
   134
   Other labs: PT / PTT / INR:15.8/37.2/1.4, CK / CKMB /
   Troponin-T:1029/24/0.59, ALT / AST:104/321, Alk Phos / T Bili:36/1.9,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:726 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.6 mg/dL
   Microbiology: [**2150-9-6**] 7:51 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2150-9-6**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   The patient is a 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
   .
   #. Serotonin Syndrome:  The patient presented with hyperthermia,
   posturing, and rigidity in the setting of MAOI and SSRI use.  This was
   thought to be [**2-9**] serotonin syndrome, so the patient was started on
   Bromocriptine, Dantrolene, and Cryoheptadine.  She is no longer
   hyperthermic but still has rigidity.  CK is downtrending.
    - Continue to hold MAOI and SSRI
    - Restart Vecuronium if hyperthermia reoccurs
    - Hold sedation for now, in order to assess mental status
    - Continue to maintain O2 sat > 93%, continue vent settings
    - Continue Levophed as necessary to maintain MAP > 60
    - Use cooling blankets as needed for hyperthermia.  Avoid NSAIDs
    - Use Cyproheptadine 2 mg q2h until no longer rigid
    - Aim to keep CVP 8-12
    - F/U Head MRI
   - F/U LP results at OSH
   - [**Hospital1 7**] CK check
   - neurology recs
   - f/u EEG result
   .
   #. ACS: The patient was found to have ST changes on ECG and an increase
   in TroponinI from 0.14 to 8.7.  The patient was intubated and thus
   unable to verbalize potential chest pain.  Heparin gtt was started at
   OSH, and cardiology was C/S upon arrival, heparin later stopped.
   Changes were likely demand, however, EKG changed over weekend.
    - Defer on ASA, as the patient has unknown allergy
    - Continue to hold BB given pressor requirment
    - F/U cardiology recs
    - trending CK for serotonin syndrome
    - Repeat EKG today
    - f/u echo results
    - check mixed venous O2 sat to check for cardiac component of
   hypotension
   .
   #. UTI:  The patient was found to have a positive U/A at OSH but
   cultures were c/w contamination.  She was being treated with Ceftaz and
   Gentamicin at OSH. Had a tx with vanco and zosyn initially.
    - f/u OSH cx
    - Hold ABx for now, as fever most likely [**2-9**] serotonin syndrome as no
   signs of active infection
   .
   # Thrombocytopenia:  The patient has thrombocytopenia, likely [**2-9**]
   underlying liver disease.  Her platelets are currently at her baseline.
    - Continue to monitor platelets daily
    - Transfuse for platelets < 50 with signs of active bleeding
    - will check PM hct
    - f/u on haptoglobin
   ICU Care
   Nutrition: nutrition consult for tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-9-5**] 06:00 PM, will need to exchange OSH line today
   Prophylaxis:
   DVT: Boots, start SC heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2150-09-07 10:52:00 Physician Attending Progress Note
Chief Complaint: serotonin syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74F with h/o depression on prozac, hcv, new dx of parkinsons, started
   on an MAOI, presented to the hospital with hyperthermia and rigidity,
   c/w serotonin syndrome, c/b troponin elevation, unresponsiveness, now
   with persistent poor mental status:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-9-6**] 08:00 AM
 SPUTUM CULTURE - At [**2150-9-6**] 08:00 AM
 URINE CULTURE - At [**2150-9-6**] 08:00 AM
 MAGNETIC RESONANCE IMAGING - At [**2150-9-7**] 12:00 AM
   -mri head overnight, awaiting read
   -heparin stopped
   -on norepinephrine for hypotension, started on abx
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2150-9-7**] 04:00 AM
   Vancomycin - [**2150-9-7**] 05:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-9-6**] 10:48 AM
   Other medications:
   ciproheptidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-9-7**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 86 (74 - 113) bpm
   BP: 106/55(65) {77/38(46) - 133/71(83)} mmHg
   RR: 12 (9 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 8 (3 - 246)mmHg
   Total In:
                                                                  6,236 mL
                                                                  2,332 mL
   PO:
   TF:
   IVF:
                                                                  6,236 mL
                                                                  2,062 mL
   Blood products:
   Total out:
                                                                    482 mL
                                                                    257 mL
   Urine:
                                                                    482 mL
                                                                    257 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,754 mL
                                                                  2,075 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 630 (493 - 630) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, moves extremities but remains rigid
   Labs / Radiology
   8.6 g/dL
   65 K/uL
   134 mg/dL
   0.3 mg/dL
   20 mEq/L
   3.8 mEq/L
   22 mg/dL
   115 mEq/L
   139 mEq/L
   26.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2150-9-5**]  05:57 PM
                             [**2150-9-5**]  07:53 PM
                             [**2150-9-5**]  08:29 PM
                             [**2150-9-6**]  03:53 AM
                             [**2150-9-6**]  10:38 AM
                             [**2150-9-7**]  04:22 AM
   WBC
   10.2
   14.2
   7.5
   Hct
   35.2
   33.7
   26.1
   Plt
   66
   65
   65
   Cr
   0.4
   0.4
   0.3
   TropT
   1.11
   0.67
   0.63
   0.59
   TCO2
   23
   24
   Glucose
   124
   116
   134
   Other labs: PT / PTT / INR:15.8/37.2/1.4, CK / CKMB /
   Troponin-T:1029/24/0.59, ALT / AST:84/211, Alk Phos / T Bili:32/2.1,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:603 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.6 mg/dL
   Imaging:
   head mri: pending
   TTE: pending
   Microbiology: sputum: polys, no micro on gs; PENDING
   LP: pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   74F with h/o depression on prozac, hcv, new dx of parkinsons, started
   on an MAOI, presented to the hospital with hyperthermia and rigidity,
   c/w serotonin syndrome, c/b troponin elevation, unresponsiveness, now
   with persistent poor mental status.
   Serotonin syndrome will continue to be treated with cyproheptidine and
   vecuronium as needed. Rigidity appears to be improving.
   Although mentation may take some time to resolve
   Persistent poor mental status is concerning. MRI read is pending; EEG
   is being started. Can check utox for persistent benzo effect given
   abnormal liver function and prior midaz gtt.
   Hypotension is concerning for sepsis. Will follow-up TTE, ScVO2, and
   cultures. Will continue empiric abx. Especially for VAP. Will also
   resite CVL
   ICU Care
   Nutrition: start tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2150-9-5**] 06:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2150-09-08 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
   24 Hour Events:
 EKG - At [**2150-9-7**] 11:00 PM
 EKG - At [**2150-9-7**] 11:48 PM
   [**9-7**]: HCT drop with large hematoma. Recent hep gtt and INR 1.4.
   Given 10mg PO vitamin K
   Monitored serial HCTs. Drop to 25.1.
   Received 2U PRBCs.
   UO dropping off. Given fluid bolus (2 500cc bolus)
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2150-9-7**] 04:00 AM
   Vancomycin - [**2150-9-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-9-8**] 04:20 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-9-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-8**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 72 (72 - 99) bpm
   BP: 96/41(56) {77/38(46) - 131/66(79)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 8 (4 - 334)mmHg
   Mixed Venous O2% Sat: 80 - 80
                                Total In:
                                                                  3,227 mL
                                                                  2,537 mL
   PO:
                                TF:
                                                                     10 mL
                                                                    178 mL
   IVF:
                                                                  2,767 mL
                                                                  1,549 mL
   Blood products:
   750 mL
   Total out:
                                                                    512 mL
                                                                    240 mL
   Urine:
                                                                    512 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,715 mL
                                                                  2,297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (479 - 630) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: ///21/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, Lip lac
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Rash: None
   Neurologic: Responds to: Noxious stimuli, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Increased
   Labs / Radiology
   63 K/uL
   10.4 g/dL
   121 mg/dL
   0.3 mg/dL
   21 mEq/L
   3.5 mEq/L
   19 mg/dL
   115 mEq/L
   139 mEq/L
   31.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2150-9-5**]  05:57 PM
                             [**2150-9-5**]  07:53 PM
                             [**2150-9-5**]  08:29 PM
                             [**2150-9-6**]  03:53 AM
                             [**2150-9-6**]  10:38 AM
                             [**2150-9-7**]  04:22 AM
                             [**2150-9-7**]  04:59 PM
                             [**2150-9-7**]  08:38 PM
                             [**2150-9-8**]  06:22 AM
   WBC
   10.2
   14.2
   7.5
   7.8
   7.7
   6.8
   Hct
   35.2
   33.7
   26.1
   26.5
   25.1
   31.2
   Plt
   66
   65
   65
   63
   73
   63
   Cr
   0.4
   0.4
   0.3
   0.3
   TropT
   1.11
   0.67
   0.63
   0.59
   TCO2
   23
   24
   Glucose
   124
   116
   134
   121
   Other labs: PT / PTT / INR:14.4/37.2/1.2, CK / CKMB /
   Troponin-T:981/24/0.59, ALT / AST:84/211, Alk Phos / T Bili:32/2.1,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:603 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Imaging: MRI Brain with gad:
   IMPRESSION:
   1. Marked cerebral cortical atrophy, predominantly involving the
   frontal
   lobes.
   2. Likely intubation-related sinus and mastoid mucosal disease.
   3. Punctate regions of susceptibility may relate to prior microbleeds.
   (Several punctate regions of susceptibility artifact are noted
   within the posterior right frontal as well as the parasagittal left
   parietal
   lobe which may relate to old blood products or a punctate
   calcification.)
   Microbiology: [**2150-9-6**] 3:53 am URINE      Source: Catheter.
    **FINAL REPORT [**2150-9-7**]**
    URINE CULTURE (Final [**2150-9-7**]):    NO GROWTH.
   OSH LP: No growth to date, GS-
   ECG: NSR, TWI V2-3, TWF V4-6, III
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   The patient is a 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
   #. Serotonin Syndrome:  The patient presented with hyperthermia,
   posturing, and rigidity in the setting of MAOI and SSRI use.  This was
   thought to be [**2-9**] serotonin syndrome, so the patient was started on
   Bromocriptine, Dantrolene, and Cryoheptadine.  She is no longer
   hyperthermic but still has rigidity.  CK is downtrending. CSF from OSH
   NGTD on [**2150-9-7**].
    - Continue to hold MAOI and SSRI
    - Restart Vecuronium if hyperthermia reoccurs though temps have been
   normal.
    - Hold sedation for now, in order to assess mental status
    - Continue to maintain O2 sat > 93%, continue vent settings
    - Continue Levophed as necessary to maintain MAP > 60
    - Use cooling blankets as needed for hyperthermia.  Avoid NSAIDs
    - Use Cyproheptadine 2 mg q2h until no longer rigid
    - Aim to keep CVP 8-12
    - Head MRI notable for cerebral atrophy, but no other notable lesions
   - [**Hospital1 7**] CK check- continue to trend down
   - neurology recs
   - f/u EEG result
   # Anemia: Suspect that acute hct drop was secondary to bleeding into
   thigh after heparin gtt and elevated INR. Pt's hct improved
   appropriately with 2u pRBCs (25->31).
   - [**Hospital1 7**] hct
   - Maintain T+S
   #. Demand Ischemia: The patient was found to have ST changes on ECG and
   an increase in Troponin I from 0.14 to 8.7.  The patient was intubated
   and thus unable to verbalize potential chest pain.  Heparin gtt was
   started at OSH, and cardiology was C/S upon arrival, heparin later
   stopped. Cards felt  findings were consistent with demand ischemia in
   setting of hyperthermia and rigidity.  No need for further cardiac
   management. ECHO without evidence of wall motion abnormalities.
    - Defer on ASA, as the patient has unknown allergy
    - Continue to hold BB given pressor requirment
   - trending CK for serotonin syndrome
   #. UTI:  The patient was found to have a positive U/A at OSH but
   cultures were c/w contamination.  She was being treated with Ceftaz and
   Gentamicin at OSH. Tx w/ vanco and zosyn here for empiric coverage. Ucx
   here NGTD. Will continue to tx until OSH negative
    - f/u OSH cx
   - On Vanc Zosyn, UCx negative here, if neg at OSH would d/c abx.
   # Thrombocytopenia:  The patient has thrombocytopenia, likely [**2-9**]
   underlying liver disease.  Her platelets are currently at her baseline.
    - Continue to monitor platelets daily
    - Transfuse for platelets < 50 with signs of active bleeding
    - will check PM hct
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-9-7**] 11:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-9-5**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-09-08 10:33:00 Physician Attending Progress Note
Chief Complaint: Serotonin syndrome, positive cardiac markers.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   EKG with no evidence for ST-elevation. Discussion with cardiology
   attributed elevated cardiac markers to demand event. Hct decrease with
   appearance of thigh hematoma, s/p 2U PRBC, 1L of IVF, mild hypotension
   requiring small dose levophed. Also recieved 10mg iv vitamin K.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2150-9-7**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-9-8**] 04:20 AM
   Vancomycin - [**2150-9-8**] 08:40 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-9-8**] 12:00 AM
   Other medications:
   Changes to medical and family history: none apart from above and below.
   Review of systems is unchanged from admission except as noted below
   Review of systems: not obtainable due to patient being intubated and
   non verbal.
   Flowsheet Data as of  [**2150-9-8**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 84 (72 - 99) bpm
   BP: 109/54(68) {96/41(56) - 131/66(79)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 11 (4 - 334)mmHg
   Mixed Venous O2% Sat: 80 - 80
                                Total In:
                                                                  3,227 mL
                                                                  2,909 mL
   PO:
                                TF:
                                                                     10 mL
                                                                    266 mL
   IVF:
                                                                  2,767 mL
                                                                  1,812 mL
   Blood products:
   750 mL
   Total out:
                                                                    512 mL
                                                                    292 mL
   Urine:
                                                                    512 mL
                                                                    292 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,715 mL
                                                                  2,617 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube, Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 602 (479 - 602) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 10 cmH2O
   SpO2: 93%
   ABG: ///22/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube,
   lips with scabbed lesions
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, bowel sounds diminshed
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opens eyes, tracking. Significant arm and LE rigidity
   Labs / Radiology
   10.4 g/dL
   63 K/uL
   133 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.7 mEq/L
   17 mg/dL
   111 mEq/L
   139 mEq/L
   31.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2150-9-5**]  05:57 PM
                             [**2150-9-5**]  07:53 PM
                             [**2150-9-5**]  08:29 PM
                             [**2150-9-6**]  03:53 AM
                             [**2150-9-6**]  10:38 AM
                             [**2150-9-7**]  04:22 AM
                             [**2150-9-7**]  04:59 PM
                             [**2150-9-7**]  08:38 PM
                             [**2150-9-8**]  06:22 AM
   WBC
   10.2
   14.2
   7.5
   7.8
   7.7
   6.8
   Hct
   35.2
   33.7
   26.1
   26.5
   25.1
   31.2
   Plt
   66
   65
   65
   63
   73
   63
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   TropT
   1.11
   0.67
   0.63
   0.59
   0.53
   TCO2
   23
   24
   Glucose
   124
   116
   134
   121
   133
   Other labs: PT / PTT / INR:15.5/37.5/1.4, CK / CKMB /
   Troponin-T:747/18/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR with tubes, lines in good position.
   Microbiology: no new data
   ECG: no evidence of evolving infarct
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Probably related to persistent metabolites of MAOI/SSRI. F/u EEG, and
   LP results. Continue to hold sedatives.
 Serotonin syndrome:
   Ck trending down, fever resolved. Continue cyproheptadine prn. No
   current need for paralytics. Appreciated neurology and psychiatry
   input.
 URINARY TRACT INFECTION (UTI)
   Obtain Osh data. If negative will stop current antibiotics
 THROMBOCYTOPENIA, CHRONIC
   Likely secondary to liver disease. Check smear. Will transfuse if hct
   continuing to drop and plt count<50.
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   Appreciated cardiology recommendation. Likely demand event. Echo with
   no WMA. Holding bblocker while on pressors. Holding ASA due to
   thrombocytopenia.
 Anemia:
   Likely related to thigh bleed. Received Vitamin K, heparin on hold,
   monitor hct s/p 2U PRBC.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-9-7**] 11:30 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled, Comments: 100-140 range
   Lines:
   Multi Lumen - [**2150-9-5**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-09-09 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-8**]:
   - started to awake, opened eyes, squeezed fingers to command
   - was tachy breifly
   - remained off sedation
   - was on small amount of neo until midnight, then weaned off
   - decreased Cyproheptadine to Q6H due to improvement, but at 4AM was
   febrile (may be from PNA) and more rigid, restarted Q2H tx, and pan
   cultured
   - continued on vanco and now on cefepime for HAP, had increased
   secretions
   - PICC line placed and SC line removed
   Propofol this am
   24 Hour Events:
 PICC LINE - START [**2150-9-8**] 11:29 AM
 MULTI LUMEN - STOP [**2150-9-8**] 04:42 PM
 PAN CULTURE - At [**2150-9-9**] 05:00 AM
 FEVER - 101.6
F - [**2150-9-9**] 04:00 AM
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2150-9-7**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-9-8**] 04:20 AM
   Vancomycin - [**2150-9-8**] 08:40 AM
   Cefipime - [**2150-9-9**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-9-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-9**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 105 (75 - 118) bpm
   BP: 121/73(85) {92/36(54) - 131/102(105)} mmHg
   RR: 23 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 5 (4 - 11)mmHg
   Total In:
                                                                  3,908 mL
                                                                  1,071 mL
   PO:
   TF:
                                                                    724 mL
                                                                    313 mL
   IVF:
                                                                  2,174 mL
                                                                    728 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    671 mL
                                                                    265 mL
   Urine:
                                                                    671 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,237 mL
                                                                    806 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 465 (423 - 602) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.46/34/81.[**Numeric Identifier 218**]/22/0
   Ve: 16.1 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   11.5 g/dL
   133 mg/dL
   0.3 mg/dL
   22 mEq/L
   4.1 mEq/L
   18 mg/dL
   112 mEq/L
   140 mEq/L
   34.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2150-9-5**]  08:29 PM
                             [**2150-9-6**]  03:53 AM
                             [**2150-9-6**]  10:38 AM
                             [**2150-9-7**]  04:22 AM
                             [**2150-9-7**]  04:59 PM
                             [**2150-9-7**]  08:38 PM
                             [**2150-9-8**]  06:22 AM
                             [**2150-9-8**]  04:25 PM
                             [**2150-9-8**]  04:52 PM
                             [**2150-9-9**]  03:16 AM
   WBC
   14.2
   7.5
   7.8
   7.7
   6.8
   7.4
   11.2
   Hct
   33.7
   26.1
   26.5
   25.1
   31.2
   30.5
   34.2
   Plt
   65
   65
   63
   73
   63
   59
   78
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   TropT
   0.67
   0.63
   0.59
   0.53
   TCO2
   24
   25
   Glucose
   116
   134
   121
   133
   133
   Other labs: PT / PTT / INR:15.5/37.5/1.4, CK / CKMB /
   Troponin-T:951/18/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   The patient is a 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
    #. HAP: Evolving infiltrate on CXR.  Sputum sample ? contaminated
   though taken from ET tube.
   - continue vanco/cefepime
   - bolus as need for MAP< 60
   #. Respiratory distress: Figthing ventilator this AM. Sedated and
   placed back on AC.
   - monitor ABG
   - continue AC
   - likely needs a-line
   #. Hypotension: ? sedation vs pna vs serotonin syndrome
   - continue fluid boluses
   - continue abx
   - place a-line
   #. Serotonin Syndrome:  The patient presented with hyperthermia,
   posturing, and rigidity in the setting of MAOI and SSRI use.  This was
   thought to be [**2-9**] serotonin syndrome, so the patient was started on
   Bromocriptine, Dantrolene, and Cryoheptadine.  She is no longer
   hyperthermic but still has rigidity.  CK is downtrending. CSF from OSH
   NGTD on [**2150-9-7**].
    - Continue to hold MAOI and SSRI
    - Restart Vecuronium if hyperthermia reoccurs though temps have been
   normal.
    - Hold sedation for now, in order to assess mental status
    - Continue to maintain O2 sat > 93%, continue vent settings
    - Continue Levophed as necessary to maintain MAP > 60
    - Use cooling blankets as needed for hyperthermia.  Avoid NSAIDs
    - Use Cyproheptadine 2 mg q2h until no longer rigid
    - Aim to keep CVP 8-12
    - Head MRI notable for cerebral atrophy, but no other notable lesions
   - [**Hospital1 7**] CK check- continue to trend down
   - neurology recs
   - f/u EEG result
   # Anemia: Suspect that acute hct drop was secondary to bleeding into
   thigh after heparin gtt and elevated INR. Pt's hct improved
   appropriately with 2u pRBCs (25->31). Now stable and not advancing.
   - daily hct
   - Maintain T+S
   #. Demand Ischemia: The patient was found to have ST changes on ECG and
   an increase in Troponin I from 0.14 to 8.7.  The patient was intubated
   and thus unable to verbalize potential chest pain.  Heparin gtt was
   started at OSH, and cardiology was C/S upon arrival, heparin later
   stopped. Cards felt  findings were consistent with demand ischemia in
   setting of hyperthermia and rigidity.  No need for further cardiac
   management. ECHO without evidence of wall motion abnormalities.
    - Defer on ASA, as the patient has unknown allergy
    - Continue to hold BB given pressor requirment
   - trending CK for serotonin syndrome
   #. UTI:  The patient was found to have a positive U/A at OSH but
   cultures were c/w contamination.  She was being treated with Ceftaz and
   Gentamicin at OSH. Tx w/ vanco and zosyn here for empiric coverage. Ucx
   here NGTD. Will continue to tx until OSH negative
    -  OSH cx negative
   -  cultures here negative
   # Thrombocytopenia:  The patient has thrombocytopenia, likely [**2-9**]
   underlying liver disease.  Her platelets are currently at her baseline.
    - Continue to monitor platelets daily
    - Transfuse for platelets < 50 with signs of active bleeding
    - will check PM hct
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-9-9**] 06:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-9-8**] 11:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-09-09 11:59:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   PICC LINE - START [**2150-9-8**] 11:29 AM, FEVER - 101.6
F - [**2150-9-9**]
   04:00 AM,  Pancultured. Increasing O2 requirment. Increased regidity
   cyproheptadine increased back to q2hr.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2150-9-7**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-9-8**] 04:20 AM
   Cefipime - [**2150-9-9**] 06:00 AM
   Vancomycin - [**2150-9-9**] 10:08 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-9-9**] 12:00 AM
   Propofol - [**2150-9-9**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain as patient is intubated/sedated.
   Flowsheet Data as of  [**2150-9-9**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.8
C (101.8
   HR: 80 (75 - 118) bpm
   BP: 99/53(63) {92/36(54) - 155/107(119)} mmHg
   RR: 17 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 5 (4 - 6)mmHg
   Total In:
                                                                  3,908 mL
                                                                  1,509 mL
   PO:
   TF:
                                                                    724 mL
                                                                    467 mL
   IVF:
                                                                  2,174 mL
                                                                  1,012 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    671 mL
                                                                    330 mL
   Urine:
                                                                    671 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,237 mL
                                                                  1,179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   Vt (Spontaneous): 465 (423 - 521) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI: 52
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.48/31/56/22/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General Appearance: calm, intubated, sedated
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : left anterior, Diminished:
   left anterior)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, less rigid extremities
   Labs / Radiology
   11.5 g/dL
   78 K/uL
   133 mg/dL
   0.3 mg/dL
   22 mEq/L
   4.1 mEq/L
   18 mg/dL
   112 mEq/L
   140 mEq/L
   42
   11.2 K/uL
        [image002.jpg]
                             [**2150-9-6**]  03:53 AM
                             [**2150-9-6**]  10:38 AM
                             [**2150-9-7**]  04:22 AM
                             [**2150-9-7**]  04:59 PM
                             [**2150-9-7**]  08:38 PM
                             [**2150-9-8**]  06:22 AM
                             [**2150-9-8**]  04:25 PM
                             [**2150-9-8**]  04:52 PM
                             [**2150-9-9**]  03:16 AM
                             [**2150-9-9**]  07:48 AM
   WBC
   14.2
   7.5
   7.8
   7.7
   6.8
   7.4
   11.2
   Hct
   33.7
   26.1
   26.5
   25.1
   31.2
   30.5
   34.2
   42
   Plt
   65
   65
   63
   73
   63
   59
   78
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   TropT
   0.67
   0.63
   0.59
   0.53
   TCO2
   25
   24
   Glucose
   116
   134
   121
   133
   133
   Other labs: PT / PTT / INR:15.5/37.5/1.4, CK / CKMB /
   Troponin-T:951/18/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:3.2 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Fluid analysis / Other labs: u/a negative nitrites, few wbc
   Microbiology: Sputum contaminated.
   blood and urine NGTD
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM):
   Now on sedation due to tachypnea and hypoxia this am. Will wean
   sedation down again as tolerated and reassess.
 Serotonin syndrome:
   on Cyprohepatdine, dose increased again this am, and temperature/HTN
   have responded and she is less rigid.
 THROMBOCYTOPENIA, CHRONIC
   stable
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   demand ischemia off heparin
 Hypoxemia, increased ventilator requirement:
   concerning for ventilator acquired pneumonia, will increase PEEP and
   perform low tidal volume ventilation, on vanco and cefepime, resend
   sputum culture. suctioning for pulmonary toilet.. Will need
   bronchoscopy to assess for secretions, perform BAL
Thigh bleed:
   hct stable. will resume s/c heparin.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-9-9**] 06:36 AM 40 mL/hour
   Glycemic Control:  Comments: not indicated
   Lines:
   PICC Line - [**2150-9-8**] 11:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-09-10 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2150-9-9**] 03:03 PM
 URINE CULTURE - At [**2150-9-9**] 03:03 PM
 ULTRASOUND - At [**2150-9-9**] 10:00 PM
   BLE LENIS
 FEVER - 102.4
F - [**2150-9-9**] 10:00 AM
   - Neuro rec 24h EEG and LP (deferred for now given coagulopathy, other
   causes of AMS)
   - Propofol change to fent gtt
   - Got BAL. Bronch showed mucus plug, lots of secretions
   - Restarted on norepi
   - Unable to place A line
   - ABX coverage changed to cefepime per ID recs for VAP
   -Had LENI's done: prelim negative
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-9-8**] 04:20 AM
   Vancomycin - [**2150-9-9**] 10:08 AM
   Cefipime - [**2150-9-10**] 05:36 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Propofol - [**2150-9-9**] 07:53 AM
   Fentanyl - [**2150-9-9**] 05:38 PM
   Heparin Sodium (Prophylaxis) - [**2150-9-9**] 10:45 PM
   Famotidine (Pepcid) - [**2150-9-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Heme / Lymph: Coagulopathy
   Flowsheet Data as of  [**2150-9-10**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.5
C (97.7
   HR: 97 (80 - 120) bpm
   BP: 105/47(61) {88/40(54) - 194/107(121)} mmHg
   RR: 22 (12 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  5,313 mL
                                                                  1,021 mL
   PO:
             TF:
                                                                    931 mL
                                                                    381 mL
   IVF:
                                                                  4,262 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                    150 mL
   Urine:
                                                                    490 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,823 mL
                                                                    871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 450) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 92%
   ABG: 7.48/31/61/22/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 87
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   60 K/uL
   10.4 g/dL
   158 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   26 mg/dL
   114 mEq/L
   140 mEq/L
   31.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2150-9-7**]  04:22 AM
                             [**2150-9-7**]  04:59 PM
                             [**2150-9-7**]  08:38 PM
                             [**2150-9-8**]  06:22 AM
                             [**2150-9-8**]  04:25 PM
                             [**2150-9-8**]  04:52 PM
                             [**2150-9-9**]  03:16 AM
                             [**2150-9-9**]  07:48 AM
                             [**2150-9-9**]  06:30 PM
                             [**2150-9-10**]  04:10 AM
   WBC
   7.5
   7.8
   7.7
   6.8
   7.4
   11.2
   11.5
   Hct
   26.1
   26.5
   25.1
   31.2
   30.5
   34.2
   42
   31.4
   Plt
   65
   63
   73
   63
   59
   78
   60
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   TropT
   0.59
   0.53
   TCO2
   25
   24
   24
   Glucose
   134
   121
   133
   133
   158
   Other labs: PT / PTT / INR:15.5/37.5/1.4, CK / CKMB /
   Troponin-T:768/18/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR [**9-9**]:
   Worsening left perihilar opacity and left pleural effusion.
   LENI's Prelim negative
   Microbiology: BCX, Ucx: NGTD
   Catheter tip: No growth
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   The patient is a 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
    #. HAP: Evolving infiltrate on CXR, but some improvement on today
   CXR.  No growth on cultures. Vanco trough was 7.8, unclear if pt missed
   a dose.
   - continue vanco/cefepime for 8 day course
   - bolus as need for MAP< 60
   - wean neosyn
   - recheck trought
   #. Respiratory distress: Sedated on AC. Less likely PE, as LENI
   negative. Pna seems like most likely cause of respiratory distress.
   - monitor ABG
   - continue AC
   #. Hypotension: ? sedation vs pna vs serotonin syndrome
   - continue fluid boluses
   - continue abx
   - place a-line
   #. Serotonin Syndrome:  The patient presented with hyperthermia,
   posturing, and rigidity in the setting of MAOI and SSRI use.  This was
   thought to be [**2-9**] serotonin syndrome, so the patient was started on
   Bromocriptine, Dantrolene, and Cryoheptadine.  She is no longer
   hyperthermic but still has rigidity.  CK is downtrending. CSF from OSH
   NGTD on [**2150-9-7**]. More rigid today than on prior days.
    - Continue cyproteptadine
    - Continue to hold MAOI and SSRI
    - Restart Vecuronium if hyperthermia reoccurs though temps have been
   normal.
    - Hold sedation for now, in order to assess mental status
    - Continue to maintain O2 sat > 93%, continue vent settings
    - Continue Levophed as necessary to maintain MAP > 60
    - Use cooling blankets as needed for hyperthermia.  Avoid NSAIDs
    - Use Cyproheptadine 2 mg q2h until no longer rigid
    - Aim to keep CVP 8-12
    - Head MRI notable for cerebral atrophy, but no other notable lesions
    - [**Hospital1 7**] CK check
    - neurology recs
    - f/u EEG result
   # Abd distention: Likely due to constipation.
   - Senna
   - Docusate
   # Anemia: Suspect that acute hct drop was secondary to bleeding into
   thigh after heparin gtt and elevated INR. Pt's hct improved
   appropriately with 2u pRBCs (25->31). Now stable and not advancing.
   - daily hct
   - Maintain T+S
   #. Demand Ischemia: The patient was found to have ST changes on ECG and
   an increase in Troponin I from 0.14 to 8.7.  The patient was intubated
   and thus unable to verbalize potential chest pain.  Heparin gtt was
   started at OSH, and cardiology was C/S upon arrival, heparin later
   stopped. Cards felt  findings were consistent with demand ischemia in
   setting of hyperthermia and rigidity.  No need for further cardiac
   management. ECHO without evidence of wall motion abnormalities.
    - Defer on ASA, as the patient has unknown allergy
    - Continue to hold BB given pressor requirment
   - trending CK for serotonin syndrome
   #. UTI:  The patient was found to have a positive U/A at OSH but
   cultures were c/w contamination.  She was being treated with Ceftaz and
   Gentamicin at OSH. Tx w/ vanco and zosyn here for empiric coverage. Ucx
   here NGTD. Will continue to tx until OSH negative
    -  OSH cx negative
   -  cultures here negative
   # Thrombocytopenia:  The patient has thrombocytopenia, likely [**2-9**]
   underlying liver disease.  Her platelets are currently at her baseline.
    - Continue to monitor platelets daily
    - Transfuse for platelets < 50 with signs of active bleeding
    - will check PM hct
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-9-10**] 06:42 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-9-8**] 11:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2150-09-10 10:29:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Poor urine output, bordeline BP, on and off levophed. Fever yesterday,
   now on standing tylenol. Bronch with plugs in lingula.  neurologgy
   recommend EEG, and LP.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-9-8**] 04:20 AM
   Vancomycin - [**2150-9-9**] 10:08 AM
   Cefipime - [**2150-9-10**] 05:36 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2150-9-9**] 05:38 PM
   Heparin Sodium (Prophylaxis) - [**2150-9-9**] 10:45 PM
   Famotidine (Pepcid) - [**2150-9-10**] 12:00 AM
   Other medications:
   heparin s/c tid, albuterol, fentanyl, cyproheptadine 3 doses overnight.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-10**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.2
C (99
   HR: 103 (80 - 120) bpm
   BP: 131/56(74) {88/40(54) - 194/94(121)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  5,313 mL
                                                                  1,138 mL
   PO:
             TF:
                                                                    931 mL
                                                                    395 mL
   IVF:
                                                                  4,262 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                    199 mL
   Urine:
                                                                    490 mL
                                                                    199 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,823 mL
                                                                    939 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/31/61/22/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 87
   Physical Examination
   General Appearance: Well nourished, No acute distress,
   edematous/anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), borderline tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   left)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   10.4 g/dL
   60 K/uL
   158 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   26 mg/dL
   114 mEq/L
   140 mEq/L
   31.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2150-9-7**]  04:22 AM
                             [**2150-9-7**]  04:59 PM
                             [**2150-9-7**]  08:38 PM
                             [**2150-9-8**]  06:22 AM
                             [**2150-9-8**]  04:25 PM
                             [**2150-9-8**]  04:52 PM
                             [**2150-9-9**]  03:16 AM
                             [**2150-9-9**]  07:48 AM
                             [**2150-9-9**]  06:30 PM
                             [**2150-9-10**]  04:10 AM
   WBC
   7.5
   7.8
   7.7
   6.8
   7.4
   11.2
   11.5
   Hct
   26.1
   26.5
   25.1
   31.2
   30.5
   34.2
   42
   31.4
   Plt
   65
   63
   73
   63
   59
   78
   60
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   TropT
   0.59
   0.53
   TCO2
   25
   24
   24
   Glucose
   134
   121
   133
   133
   158
   Other labs: PT / PTT / INR:15.5/37.5/1.4, CK / CKMB /
   Troponin-T:665/18/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:84.1 %, Lymph:12.7 %, Mono:3.0 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L, Ca++:6.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR ETT in good position, Left sided infiltrate less dense,
   Left sided pleural effusion.
   Microbiology: rare yeast sputum
   all other culture data negative to date.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)/serotonin syndrome:
   obtain EEG today, will defer LP due to thrombocytopenia, presence of
   concomitant pulmonary infection, and need for sedation and altered MS
   likely explained by delirium/sedation. Doubt hospital aquired bacterial
   meningitis and prior LP was negative at OSH, and she is currently on
   therapy. d/c fentanyl for neuroexam. Decrease frequency of
   cyclohepatidine per neuro 8 q6.
 Nutrition:
   high residual this am, start senna/colace, restart tube feeds at [**Doctor Last Name **]
   rate.
 VAP: sputum culture negative todate but clear infiltrate on CXR. On
   vanco/cefepime x 8 days. r/a need for bronch today. send gas, wean
   FiO2, and PEEP as tolerated.
 Hypotension: Bp improved, continue to monitor urine output, bolus as
   necessary and levophed to keep MAP >65.
   ICU Care
   Nutrition:
   Comments: start tube feeds today
   Glycemic Control:  not indicated.
   Lines:
   PICC Line - [**2150-9-8**] 11:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments: family updated yesterday
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-09-11 08:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-10**]
   - Started 24hr EEG
   - Increased rigidity so received cyprohept 2q2hr
   - IV tip showed no growth
   - Advanced ET tube
   - increased levo dose for higher MAP goal as UO poor. Not much
   improvement.
   24 Hour Events:
   Lasix 40mg IV- put out 150ml urine
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-9-10**] 10:10 PM
   Cefipime - [**2150-9-11**] 06:25 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-9-10**] 10:11 PM
   Famotidine (Pepcid) - [**2150-9-11**] 12:10 AM
   Furosemide (Lasix) - [**2150-9-11**] 07:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-11**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 113 (85 - 114) bpm
   BP: 122/39(59) {89/39(55) - 134/60(78)} mmHg
   RR: 34 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  2,286 mL
                                                                    747 mL
   PO:
             TF:
                                                                    727 mL
                                                                    294 mL
   IVF:
                                                                  1,059 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                    394 mL
                                                                    150 mL
   Urine:
                                                                    394 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,892 mL
                                                                    598 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.38/39/68/23/-1
   Ve: 12.9 L/min
   PaO2 / FiO2: 97
   Physical Examination
   Intubated, sedated
   Rigid ext with edema, large hematoma on left LE
   Chest
 rhonchi
   Abd- soft, ND
   Labs / Radiology
   70 K/uL
   11.1 g/dL
   161 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   36 mg/dL
   112 mEq/L
   138 mEq/L
   33.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2150-9-8**]  06:22 AM
                             [**2150-9-8**]  04:25 PM
                             [**2150-9-8**]  04:52 PM
                             [**2150-9-9**]  03:16 AM
                             [**2150-9-9**]  07:48 AM
                             [**2150-9-9**]  06:30 PM
                             [**2150-9-10**]  04:10 AM
                             [**2150-9-10**]  10:36 AM
                             [**2150-9-10**]  05:01 PM
                             [**2150-9-11**]  04:52 AM
   WBC
   6.8
   7.4
   11.2
   11.5
   12.3
   11.0
   Hct
   31.2
   30.5
   34.2
   42
   31.4
   33.9
   33.4
   Plt
   63
   59
   78
   60
   67
   70
   Cr
   0.3
   0.3
   0.4
   0.5
   TropT
   0.53
   TCO2
   25
   24
   24
   24
   Glucose
   133
   133
   158
   161
   Other labs: PT / PTT / INR:16.2/58.2/1.4, CK / CKMB /
   Troponin-T:306/18/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:86.4 %, Lymph:6.1 %, Mono:3.2 %, Eos:3.9 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: ABG
   [**2150-9-11**]
   06:25a
   pH 7.31 -> 7.36
   pCO2 49 -> 40
   pO2 48 -> 68
   Lactate:1.8-> 2.2
   Imaging: LENI
   IMPRESSION: No DVT in either extremity.
   Microbiology: [**2150-9-9**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL INPATIENT
   [**2150-9-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-9-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-9-9**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2150-9-8**]  CATHETER TIP-IV WOUND CULTURE-FINAL INPATIENT
   [**2150-9-6**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2150-9-6**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-9-6**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-9-6**]  URINE URINE CULTURE-FINAL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   The patient is a 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
   #. Respiratory distress: On CXR today pt has new bilateral fluffy
   infiltrates concerning for pulmonary edema versus ARDS. ABG this am
   showed poor oxygenation, PEEP was increased, FIO2 and TV increased,
   sedation increased , repeat ABG sent. Lasix given
   - likely will need more diuresis, will start lasix gtt, goal 50ml
   negative per hour
   - monitor ABG
   - continue AC
   - will keep on increased fentanyl, if not suff. will add versed
   - today will try to wean PEEP first
    #. HAP: Evolving infiltrate on CXR, but some improvement on today
   CXR.  No growth on cultures. Vanco trough was 13 today, but not high
   enough for VAP tx
   - continue vanco/cefepime for 8 day course, will increase dose to
   1.25gm Q12
   - bolus as need for MAP< 60
   - wean levo if possible
   - recheck trough vanco in AM goal >20
   #. Hypotension: ? sedation vs pna vs serotonin syndrome vs parkinsons
   disease related autoregulaion deffect
   - continue fluid boluses
   - continue abx
   - levo as needed
   #. Serotonin Syndrome:  The patient presented with hyperthermia,
   posturing, and rigidity in the setting of MAOI and SSRI use.  This was
   thought to be [**2-9**] serotonin syndrome, so the patient was started on
   Bromocriptine, Dantrolene, and Cryoheptadine.  She is no longer
   hyperthermic but still has rigidity.  CK is downtrending. CSF from OSH
   NGTD on [**2150-9-7**]. same amount of rigidity today.
    - Continue cyproteptadine
    - Continue to hold MAOI and SSRI
    - Restart Vecuronium if hyperthermia reoccurs though temps have been
   normal.
    - Hold sedation for now, in order to assess mental status
    - Continue to maintain O2 sat > 93%, continue vent settings
    - Continue Levophed as necessary to maintain MAP > 60
    - Use cooling blankets as needed for hyperthermia.  Avoid NSAIDs
    - Use Cyproheptadine 2 mg q2h until no longer rigid
    - Aim to keep CVP 8-12
    - Head MRI notable for cerebral atrophy, but no other notable lesions
    - [**Hospital1 7**] CK check
    - neurology recs
    - f/u EEG result once complete
   # Abd distention: Likely due to constipation.
   - Senna
   - Docusate
   - will add lacutlose this PM if needed
   # Anemia: Suspect that acute hct drop was secondary to bleeding into
   thigh after heparin gtt and elevated INR. Pt's hct improved
   appropriately with 2u pRBCs (25->31). Now stable.
   - daily hct
   - Maintain T+S
   #. Demand Ischemia: The patient was found to have ST changes on ECG and
   an increase in Troponin I from 0.14 to 8.7.  The patient was intubated
   and thus unable to verbalize potential chest pain.  Heparin gtt was
   started at OSH, and cardiology was C/S upon arrival, heparin later
   stopped. Cards felt  findings were consistent with demand ischemia in
   setting of hyperthermia and rigidity.  No need for further cardiac
   management. ECHO without evidence of wall motion abnormalities.
    - Defer on ASA, as the patient has unknown allergy
    - Continue to hold BB given pressor requirment
   - trending CK for serotonin syndrome
   - check EKG today
   # Thrombocytopenia:  The patient has thrombocytopenia, likely [**2-9**]
   underlying liver disease.  Her platelets are currently at her baseline.
    - Continue to monitor platelets daily
    - Transfuse for platelets < 50 with signs of active bleeding
    - will check PM hct
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-9-11**] 03:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-9-8**] 11:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2150-09-11 10:00:00 Physician Attending Progress Note
Chief Complaint: serotonin syndrome, shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   More hypoxemic, with increased frothy secretions from ETT, remains with
   low urine output, received lasic 40 iv x1 with U/O 150cc. No bowel
   movements since admission.
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-9-10**] 10:10 PM
   Cefipime - [**2150-9-11**] 06:25 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-9-10**] 10:11 PM
   Famotidine (Pepcid) - [**2150-9-11**] 12:10 AM
   Furosemide (Lasix) - [**2150-9-11**] 07:03 AM
   Other medications:
   cycloheptadine q2hours
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-11**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 108 (96 - 114) bpm
   BP: 125/55(72) {101/39(55) - 134/60(78)} mmHg
   RR: 29 (15 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  2,286 mL
                                                                    837 mL
   PO:
             TF:
                                                                    727 mL
                                                                    358 mL
   IVF:
                                                                  1,059 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                    394 mL
                                                                    300 mL
   Urine:
                                                                    394 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,892 mL
                                                                    537 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 370 (360 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.36/40/68/23/-2
   Ve: 11.4 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: left , Rhonchorous: )
   Abdominal: Soft, Non-tender, bowel sounds decreased
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Normal
   Labs / Radiology
   11.1 g/dL
   70 K/uL
   161 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   36 mg/dL
   112 mEq/L
   138 mEq/L
   33.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2150-9-8**]  04:25 PM
                             [**2150-9-8**]  04:52 PM
                             [**2150-9-9**]  03:16 AM
                             [**2150-9-9**]  07:48 AM
                             [**2150-9-9**]  06:30 PM
                             [**2150-9-10**]  04:10 AM
                             [**2150-9-10**]  10:36 AM
                             [**2150-9-10**]  05:01 PM
                             [**2150-9-11**]  04:52 AM
                             [**2150-9-11**]  07:53 AM
   WBC
   7.4
   11.2
   11.5
   12.3
   11.0
   Hct
   30.5
   34.2
   42
   31.4
   33.9
   33.4
   Plt
   59
   78
   60
   67
   70
   Cr
   0.3
   0.4
   0.5
   TCO2
   25
   24
   24
   24
   24
   Glucose
   133
   158
   161
   Other labs: PT / PTT / INR:16.2/58.2/1.4, CK / CKMB /
   Troponin-T:306/18/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:86.4 %, Lymph:6.1 %, Mono:3.2 %, Eos:3.9 %, Lactic
   Acid:2.2 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Microbiology: blood and urine culture no growth today.
   Assessment and Plan
 Respiratory failure:
   Left sided pneumonia + now evidence for superimposed pulmonary edema vs
   ARDS. Will obtain EKG to evaluate for new ishchemia. Start lasix drip
   attempt negative 50cc/hr. Continue antibiotic therapy. Vanc, Cefepime x
   8days. Increase vanco dose.
   Ventilator: Increase sedation to make her more in-sync with the
   ventilator. Decrease PEEP due to high plateau and autopeep, and
   marginal BP, monitor sats.
 Hypotension/shock:
   Sepsis likely resolved, etiology of persistent hypotension is unclear,
   echo with normal EF, and no wall motion abnormalities, may have
   underlying diastolic dysfunction or shy-[**Last Name (un) **] syndrome. Use neo as
   needed given tachycardia with levophed
 Altered mental status: EEG pending today, deferring LP, will obtain
   head CT tomorrow. Appreciate neurology recommendations.
 THROMBOCYTOPENIA, CHRONIC: stable
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA):
   recheck CK, troponin
 Consitpation: increase bowel regimen.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-9-11**] 03:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-9-8**] 11:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:  updated daughter [**Name (NI) 9831**] regarding decline in
   condition over past 24 hours
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2150-09-12 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**9-11**]
   - had desaturation on vent, PEEP was increased, but pt continued to
   decline with hypotension, CXR found right sided peumothroax. Surgery
   placed small chest tube to decompress, giben FFP x 1 unit for procedure
   - right IJ line was placed
   - right brachial a line was placed
   - lasix gtt was started, and albumin given
   - continued to have no BM, lactuolose given
   - will check vanco trough
   - After gas- 7.23/51/97/22 FiO2 changed to 80%, versed restarted since
   pt was fighting vent to help improve sedation
   -right pupil larger than left pupil, both are reactive but sluggish
   - later pt continued to fight vent, acidosis worsened, PEEP was raised
   to 8 with no improvement, Ph dropped to 7.07 despite bicarb 200mg.
   Family was called to bedside, discussed that pt will not survive this
   acidosis
   24 Hour Events:
 ARTERIAL LINE - START [**2150-9-11**] 01:34 PM
 CHEST TUBE PLACED - At [**2150-9-11**] 03:38 PM
 ARTERIAL LINE - STOP [**2150-9-11**] 03:41 PM
 MULTI LUMEN - START [**2150-9-11**] 06:37 PM
 ARTERIAL LINE - START [**2150-9-11**] 08:14 PM
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-9-11**] 11:09 AM
   Cefipime - [**2150-9-12**] 06:30 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2150-9-11**] 04:38 PM
   Midazolam (Versed) - [**2150-9-12**] 01:26 AM
   Fentanyl - [**2150-9-12**] 01:26 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2150-9-12**] 04:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-12**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 116 (101 - 129) bpm
   BP: 114/55(80) {90/44(62) - 116/96(99)} mmHg
   RR: 23 (22 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 21 (3 - 21)mmHg
   Total In:
                                                                  2,619 mL
                                                                  1,085 mL
   PO:
   TF:
                                                                    903 mL
   IVF:
                                                                    818 mL
                                                                    875 mL
   Blood products:
                                                                    403 mL
   Total out:
                                                                    937 mL
                                                                    985 mL
   Urine:
                                                                    915 mL
                                                                     30 mL
   NG:
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  1,682 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (370 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   Compliance: 20.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.07/70/91.[**Numeric Identifier 143**]/19/-11
   Ve: 8.6 L/min
   PaO2 / FiO2: 92
   Physical Examination
   Intubated, sedated, large amount of red secretions in ET tube
   Chest- rhonchi bilaterally
   CV; RRR, no M
   Ext- edema/anasarca, hematoma present
   Labs / Radiology
   91 K/uL
   10.9 g/dL
   78 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.5 mEq/L
   44 mg/dL
   110 mEq/L
   139 mEq/L
   34.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2150-9-10**]  10:36 AM
                             [**2150-9-10**]  05:01 PM
                             [**2150-9-11**]  04:52 AM
                             [**2150-9-11**]  07:53 AM
                             [**2150-9-11**]  02:36 PM
                             [**2150-9-11**]  09:09 PM
                             [**2150-9-12**]  01:00 AM
                             [**2150-9-12**]  01:18 AM
                             [**2150-9-12**]  03:24 AM
                             [**2150-9-12**]  04:45 AM
   WBC
   12.3
   11.0
   7.6
   Hct
   33.9
   33.4
   34.2
   34.4
   Plt
   67
   70
   91
   Cr
   0.5
   0.6
   1.0
   TCO2
   24
   24
   22
   22
   21
   22
   Glucose
   161
   146
   78
   Other labs: PT / PTT / INR:16.4/53.2/1.5, CK / CKMB /
   Troponin-T:340/10/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:70.0 %, Band:11.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:3.0 %, Lactic Acid:7.1 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 COAGULOPATHY
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 URINARY TRACT INFECTION (UTI)
 THROMBOCYTOPENIA, CHRONIC
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
   The patient is a 74 yo woman with h/o depression, HepC, and recently
   diagnosed Parkinson's syndrome, who presents with hyperthermia,
   rigidity, and clonus, consistent with serotonin syndrome.
   #. Respiratory distress: On CXR today pt has new bilateral fluffy
   infiltrates concerning for pulmonary edema versus ARDS. ABG yesterday
   showed poor oxygenation, PEEP was increased, later pt found to have rt
   pneumothorax, chest tube was placed. Overnight pt resisted vent
   settings, required large amounts of secreations. And  FIO2 of 100%.
   This was likely due to large amounts of pulmonary edema and attemts at
   diruetics were ineffective.
   - continue vent settings until family meeting to discuss withdrawal of
   care
    #. HAP: Evolving infiltrate on CXR, but some improvement on today
   CXR.  No growth on cultures. Vanco trough elevated
   - continue vanco/cefepime for 8 day course,  for now
   #. Hypotension: Likely now due to both spesis and cardiogenic shock,
   with recent NSTEMI.
   - will check CEs and EKG
   - continue pressors
   - continue abx
   #. Serotonin Syndrome:  The patient presented with hyperthermia,
   posturing, and rigidity in the setting of MAOI and SSRI use.  This was
   thought to be [**2-9**] serotonin syndrome, so the patient was started on
   Bromocriptine, Dantrolene, and Cryoheptadine.  She is no longer
   hyperthermic but still has rigidity.  CK is uptrending. CSF from OSH
   NGTD on [**2150-9-7**]. same amount of rigidity today.
   - will discuss goals of care with family
   # Abd distention: Likely due to constipation.
   - Senna
   - Docusate
   - will add lacutlose this PM if needed
   # Anemia: Suspect that acute hct drop was secondary to bleeding into
   thigh after heparin gtt and elevated INR. Pt's hct improved
   appropriately with 2u pRBCs (25->31). Now stable.
   - daily hct
   - Maintain T+S
   #. Demand Ischemia: The patient was found to have ST changes on ECG and
   an increase in Troponin I from 0.14 to 8.7.  The patient was intubated
   and thus unable to verbalize potential chest pain.  Heparin gtt was
   started at OSH, and cardiology was C/S upon arrival, heparin later
   stopped. Cards felt  findings were consistent with demand ischemia in
   setting of hyperthermia and rigidity.  No need for further cardiac
   management. ECHO without evidence of wall motion abnormalities.
    - Defer on ASA, as the patient has unknown allergy
    - Continue to hold BB given pressor requirment
   - trending CK for serotonin syndrome
   - check EKG today
   # Thrombocytopenia:  The patient has thrombocytopenia, likely [**2-9**]
   underlying liver disease.  Her platelets are currently at her baseline.
    - Continue to monitor platelets daily
    - Transfuse for platelets < 50 with signs of active bleeding
    - will check PM hct
   ICU Care
   Nutrition: tube feeds held
   Glycemic Control:
   Lines:
   PICC Line - [**2150-9-8**] 11:29 AM
   Multi Lumen - [**2150-9-11**] 06:37 PM
   Arterial Line - [**2150-9-11**] 08:14 PM
   Prophylaxis:
   DVT: peumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CPR not indicated, pt is likely terminal.

2150-09-12 09:01:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   70F a/w serotonin syndrome (SSRI/MAOI) with complicated ICU course
   notable for VAP, renal failure, volume overload, coagulopathy and most
   recently R-PTX (barotrauma), had pigtail catheter placed.
   24 Hour Events:
   Overnight, low O2 sat, dyssynchronous with vent, requiring high levels
   sedation.
   Diuresis attempted with albumin, lasix, diuril with  little
   improvement.
   On neo (has been tachycardic in past on levophed).
   Worsening acidemia, with pH 7.07; little improvement with  bicarb gtt.
   No EKG changes.
   Family is aware and [**Last Name (un) 9855**] in family from farther away in anticipation
   of her passing.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2150-9-11**] 11:09 AM
   Cefipime - [**2150-9-12**] 06:30 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2150-9-11**] 04:38 PM
   Midazolam (Versed) - [**2150-9-12**] 01:26 AM
   Fentanyl - [**2150-9-12**] 01:26 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2150-9-12**] 04:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-12**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 112 (101 - 129) bpm
   BP: 101/51(71) {90/44(62) - 116/96(99)} mmHg
   RR: 23 (22 - 24) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
   CVP: 17 (3 - 21)mmHg
   Total In:
                                                                  2,619 mL
                                                                  1,310 mL
   PO:
   TF:
                                                                    903 mL
   IVF:
                                                                    818 mL
                                                                  1,100 mL
   Blood products:
                                                                    403 mL
   Total out:
                                                                    937 mL
                                                                    985 mL
   Urine:
                                                                    915 mL
                                                                     30 mL
   NG:
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  1,682 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (370 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 43 cmH2O
   Plateau: 30 cmH2O
   Compliance: 20.5 cmH2O/mL
   SpO2: 91%
   ABG: 7.07/70/91.[**Numeric Identifier 143**]/19/-11
   Ve: 8.9 L/min
   PaO2 / FiO2: 92
   Physical Examination
   Declined, as family spending time with patient.
   Labs / Radiology
   10.9 g/dL
   91 K/uL
   78 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.5 mEq/L
   44 mg/dL
   110 mEq/L
   139 mEq/L
   34.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2150-9-10**]  10:36 AM
                             [**2150-9-10**]  05:01 PM
                             [**2150-9-11**]  04:52 AM
                             [**2150-9-11**]  07:53 AM
                             [**2150-9-11**]  02:36 PM
                             [**2150-9-11**]  09:09 PM
                             [**2150-9-12**]  01:00 AM
                             [**2150-9-12**]  01:18 AM
                             [**2150-9-12**]  03:24 AM
                             [**2150-9-12**]  04:45 AM
   WBC
   12.3
   11.0
   7.6
   Hct
   33.9
   33.4
   34.2
   34.4
   Plt
   67
   70
   91
   Cr
   0.5
   0.6
   1.0
   TCO2
   24
   24
   22
   22
   21
   22
   Glucose
   161
   146
   78
   Other labs: PT / PTT / INR:16.4/53.2/1.5, CK / CKMB /
   Troponin-T:340/10/0.53, ALT / AST:84/166, Alk Phos / T Bili:36/3.8,
   Differential-Neuts:70.0 %, Band:11.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:3.0 %, Lactic Acid:7.1 mmol/L, Albumin:2.0 g/dL, LDH:579 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   70F a/w serotonin syndrome (SSRI/MAOI) with complicated ICU course
   notable for VAP, renal failure, volume overload, coagulopathy and most
   recently R-PTX (barotrauma), had pigtail catheter placed, declining
   from respiratory status, with family aware and having made decision not
   to escalate care currently, and to move towards CMO when remainder of
   family has arrived.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-9-8**] 11:29 AM
   Multi Lumen - [**2150-9-11**] 06:37 PM
   Arterial Line - [**2150-9-11**] 08:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: